US06200976B1
a. 5-bromo-2-methylamino-nitrobenzene
Prepared analogously to Example 7a from 2,5-dibromo-nitrobenzene and methylamine solution in ethanol.

reactant | 2,5-dibromo-nitrobenzene | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | 5-bromo-2-methylamino-nitrobenzene | BrC=1C=CC(=C(C1)[N+](=O)[O-])NC | C7H7BrN2O2
